US05654322
Dipotassium 2-[[5-Ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl ]methyl-1,3,4-thiadiazoline-2-yliden]-aminocarbonyl]-1-cyclopentenecarboxylate (2K salt of compound No.130):
To a solution of 0.1N potassium hydroxide ethanolic solution (400 ml) and ethanol (600 ml) was added 2-[[5-Ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline-2-yliden]aminocarbonyl]-1-cyclopentenecarboxylic acid (10 g), and the mixture was heated on water bath. After the mixture had been completely dissolved, the solvent was concentrated to 200 ml in vacuo. The precipitated crystals were filtrated, washed with ethanol, and then dried in vacuo. The title compound (11 g) was obtained.

reactant | potassium hydroxide | 0.1N, 400 ml | [OH-].[K+]
reactant | 2-[[5-Ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-1,3,4-thiadiazoline-2-yliden]aminocarbonyl]-1-cyclopentenecarboxylic acid | 10 g | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C25H23N7O3S
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | Dipotassium 2-[[5-Ethyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl ]methyl-1,3,4-thiadiazoline-2-yliden]-aminocarbonyl]-1-cyclopentenecarboxylate | 11 g | C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1.[K+].[K+].C(C)C1=NN(C(S1)=NC(=O)C1=C(CCC1)C(=O)[O-])CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/2C25H23N7O3S.2K/c2*1-2-21-29-32(25(36-21)26-23(33)19-8-5-9-20(19)24(34)35)14-15-10-12-16(13-11-15)17-6-3-4-7-18(17)22-27-30-31-28-22;;/h2*3-4,6-7,10-13H,2,5,8-9,14H2,1H3,(H,34,35)(H,27,28,30,31);;/q;;2*+1/p-2
